US06638944B2
N1-[2-(4-Amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]-3-phenylpropanamide Hydrochloride
Using the general method of Example 92, hydrocinnamoyl chloride (0.1 g, 0.7 mmol) was reacted with 2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethaneamine (0.2 g, 0.7 mmol). After one hour the reaction mixture was poured directly onto a silica gel column and eluted with dichloromethane at first, then 15% methanol/dichloromethane to provide 0.2 g of a solid. This solid was recrystallized from toluene to provide 0.2 g of N1-[2-(4-amino-2-butyl-1H-imidazo[4,5-c]([1,5]naphthyridin-1-yl)ethyl]-3-phenylpropanamide hydrochloride as a white powder, m.p. 183-185° C. Analysis: Calculated for C24H28N6O HCl: %C, 63.64; %H, 6.45; %N, 18.55; Found: %C, 63.68; %H, 6.43; %N, 18.55.

reactant | hydrocinnamoyl chloride | 0.7 mmol, 0.1 g | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
reactant | 2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethaneamine | 0.7 mmol, 0.2 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCN)CCCC | C15H20N6
product | N1-[2-(4-Amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]-3-phenylpropanamide Hydrochloride | 0.2 g | Cl.NC1=NC=2C=CC=NC2C2=C1N=C(N2CCNC(CCC2=CC=CC=C2)=O)CCCC | InChI=1S/C24H28N6O.ClH/c1-2-3-11-19-29-22-23(21-18(28-24(22)25)10-7-14-27-21)30(19)16-15-26-20(31)13-12-17-8-5-4-6-9-17;/h4-10,14H,2-3,11-13,15-16H2,1H3,(H2,25,28)(H,26,31);1H
